US06384281B1
6-{(1R,2S,3S,4S)-3-[(Dimethylamino)methyl]bicyclo[2.2.1]hept-2-yl}-2-naphthol
To a stirred solution of [(1S,2S,3S,4R)-3-(6-methoxy-2-naphthyl)bicyclo [2.2.1]hept-2-yl]-N, N-dimethyl methanamine in DMF was added sodium ethane thionyl. The mixture was heated to 100 C for 40 hours. When cool, water was added to quench the reaction. The aqueous phase was extracted with ethyl acetate. The organic phase was washed with water, brine, dried over magnesium sulfate and concentrated in-vacuo. Purification was achieved by column chromatography, using flask silica and DCMM/eOH(M/eOH,NH40H at 10%) in a ration of 10/1/0.1 for eluant. Yield (10%). ME 296 (MH+).

reactant | [(1S,2S,3S,4R)-3-(6-methoxy-2-naphthyl)bicyclo [2.2.1]hept-2-yl]-N, N-dimethyl methanamine | COC=1C=C2C=CC(=CC2=CC1)[C@@H]1[C@H]([C@H]2CC[C@@H]1C2)CN(C)C | C21H27NO
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-{(1R,2S,3S,4S)-3-[(Dimethylamino)methyl]bicyclo[2.2.1]hept-2-yl}-2-naphthol | CN(C)C[C@@H]1[C@H]([C@@H]2CC[C@H]1C2)C=2C=C1C=CC(=CC1=CC2)O | C20H25NO
